US07199120B2
To a solution of 7-chloro-2-(2-furyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde (2.0 g, 8.06 mmol) in dichloromethane was added N-bromosuccinimide (2.01 g, 11.28 mmol). After stirring at room temperature for 2 hours, the reaction mixture was diluted with dichloromethane, washed with water and brine and dried over magnesium sulfate. Filtration and concentration followed by recrystallization with ethyl acetate gave 2-(5-bromo-2-furyl)-7-chloropyrazolo[1,5-a]pyridine-3-carbaldehyde (2.1 g, 80%) as a white solid. 1H NMR (CDCl3): δ 10.50 (s, 1H), 8.37 (dd, 1H), 7.47 (t, 1H), 7.20–7.18 (m, 2H), 6.54 (d, 1H). MS m/z 325 (M+1).

reactant | 7-chloro-2-(2-furyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde | 8.06 mmol, 2.0 g | ClC1=CC=CC=2N1N=C(C2C=O)C=2OC=CC2 | C12H7ClN2O2
reactant | N-bromosuccinimide | 11.28 mmol, 2.01 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(5-bromo-2-furyl)-7-chloropyrazolo[1,5-a]pyridine-3-carbaldehyde | 2.1 g, 80% | BrC1=CC=C(O1)C1=NN2C(C=CC=C2Cl)=C1C=O | C12H6BrClN2O2
